US09120805B2
A solution of 18.9 mg (0.055 mmol) 2-chloromethyl-6-(4-trifluoromethoxy-phenyl)-5H-pyrazolo[1,5-a]pyrazin-4-one in 0.5 ml THF is flushed with nitrogen. 3.5 mg (0.092 mmol) Lithiumaluminiumhydride is added and the reaction mixture is stirred for 5 hours at room temperature. Then 1 ml THF, 3.5 μl water, 3.5 μl 15% aqueous NaOH solution and 10.5 μl water are added successively. The resulting suspension is stirred for 30 minutes at room temperature. The precipitate is filtered off and washed with THF and ethanol. The filtrate is evaporated and purified by preparative HPLC to give 2-methyl-6-(4-trifluoromethoxy-phenyl)-5H-pyrazolo[1,5-a]pyrazin-4-one as colourless crystals; HPLC/MS 2.53 min (B), [M+H] 310;

reactant | 2-chloromethyl-6-(4-trifluoromethoxy-phenyl)-5H-pyrazolo[1,5-a]pyrazin-4-one | 0.055 mmol, 18.9 mg | ClCC1=NN2C(C(NC(=C2)C2=CC=C(C=C2)OC(F)(F)F)=O)=C1 | C14H9ClF3N3O2
reactant | Lithiumaluminiumhydride | 0.092 mmol, 3.5 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 3.5 μl | O | H2O
reactant | NaOH | 3.5 μl | [OH-].[Na+]
reactant | water | 10.5 μl | O | H2O
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 2-methyl-6-(4-trifluoromethoxy-phenyl)-5H-pyrazolo[1,5-a]pyrazin-4-one | CC1=NN2C(C(NC(=C2)C2=CC=C(C=C2)OC(F)(F)F)=O)=C1 | C14H10F3N3O2
